US08377911B2
Step B: {(2S)-1-[(E)-butoxy-NNO-azoxy]pyrrolidin-2-yl}methyl(3S)-3-(4-chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-yl carbonate
To a solution of (3S)-3-(4-chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridine-7-ol (900 mg, 3.44 mmol) in DMF (10 mL) at 0° C. was added sodium hydride (206 mg, 5.16 mmol) and, in 10 minutes, followed by addition of {(2S)-1-[(Z)-butoxy-NNO-azoxy]pyrrolidin-2-yl}methyl 1-chloroethyl carbonate (1.3 g, 4.02 mmol). After stirring at rt for 3 h, the mixture was partitioned between Et2O (50 mL) and water (50 mL). The organic layer was washed with brine (3×50 mL), dried over MgSO4, and concentrated. The residue was purified by flash chromatography (Biotage 25+M) using 30-50% EtOAc/hexane gradient, affording the title compound: 1H NMR (500 MHz, CDCl3) δ 8.08 (s, 1H), 7.37-7.27 (m, 4H), 6.21 (s, 1H), 5.29-5.13 (m, 2H), 4.49 (m, 1H), 4.40 (m, 1H), 4.35 (m, 1H), 4.20 (m, 2H), 3.65 (m, 1H), 3.57 (m, 1H), 2.52 (s, 3H), 2.20 (m, 1H), 2.05 (m, 2H), 1.90 (m, 1H), 1.75 (m, 2H), 1.42 (m, 2H), 0.94 (m, 3H).

reactant | (3S)-3-(4-chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridine-7-ol | 3.44 mmol, 900 mg | ClC1=CC=C(C=C1)[C@@H]1OCC2=C1C=NC(=C2O)C | C14H12ClNO2
reactant | sodium hydride | 5.16 mmol, 206 mg | [H-].[Na+]
reactant | {(2S)-1-[(Z)-butoxy-NNO-azoxy]pyrrolidin-2-yl}methyl 1-chloroethyl carbonate | 4.02 mmol, 1.3 g | C(OC[C@H]1N(CCC1)/[N+](=N/OCCCC)/[O-])(OC(C)Cl)=O | C12H22ClN3O5
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | {(2S)-1-[(E)-butoxy-NNO-azoxy]pyrrolidin-2-yl}methyl(3S)-3-(4-chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-yl carbonate | C(OC[C@H]1N(CCC1)\[N+](=N/OCCCC)\[O-])(OC=1C2=C(C=NC1C)[C@@H](OC2)C2=CC=C(C=C2)Cl)=O | C24H29ClN4O6
